US09062032B2
To a mixture of 1.00 g of methyl 4-{2-[4-({[2-({3-[(pentan-3-ylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate, 1.00 g of sodium triacetoxyborohydride, 0.50 mL of acetic acid and 20 mL of methylene chloride was added 473 mg of ethyl 4-[methyl(2-oxoethyl)amino]-4-oxobutanoate, followed by stirring for 1 hour at room temperature. 498 mg of sodium triacetoxyborohydride and 237 mg of ethyl 4-[methyl(2-oxoethyl)amino]-4-oxobutanoate were further added to the reaction mixture, followed by stirring for 2 hours at room temperature. An aqueous sodium hydrogen carbonate solution was added to the reaction mixture, followed by extraction with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate), thereby obtaining 1.19 g of methyl 4-(2-{4-[({2-[(3-{[{2-[(4-ethoxy-4-oxobutanoyl)(methyl)amino]ethyl}(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate.

reactant | methyl 4-{2-[4-({[2-({3-[(pentan-3-ylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 1.00 g | CCC(CC)NCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C38H43N3O4S
reactant | sodium triacetoxyborohydride | 1.00 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ethyl 4-[methyl(2-oxoethyl)amino]-4-oxobutanoate | 473 mg | CN(C(CCC(=O)OCC)=O)CC=O | C9H15NO4
reactant | sodium triacetoxyborohydride | 498 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ethyl 4-[methyl(2-oxoethyl)amino]-4-oxobutanoate | 237 mg | CN(C(CCC(=O)OCC)=O)CC=O | C9H15NO4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.50 mL | C(C)(=O)O | C2H4O2
product | methyl 4-(2-{4-[({2-[(3-{[{2-[(4-ethoxy-4-oxobutanoyl)(methyl)amino]ethyl}(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 1.19 g | C(C)OC(CCC(=O)N(CCN(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)C)=O | C47H58N4O7S
